US08198287B2
5.3 (+/−)2-(4-Oxo-2-pyridin-4-yl-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidin-8-yl)-isoindole-1,3-dione
By analogy with the method described in example 1 (step 1.3), using ethyl 3-(4-pyridinyl)-3-oxopropionate (prepared by analogy to the method described in patent DE 2705582) and using 2-(2-amino-4,5-dihydro-3H-pyrrol-3-yl)-isoindole-1,3-dione, the compound was obtained as a white powder.

reactant | ethyl 3-(4-pyridinyl)-3-oxopropionate | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 2-(2-amino-4,5-dihydro-3H-pyrrol-3-yl)-isoindole-1,3-dione | NC1=NCCC1N1C(C2=CC=CC=C2C1=O)=O | C12H11N3O2
product | (+/−)2-(4-Oxo-2-pyridin-4-yl-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidin-8-yl)-isoindole-1,3-dione | O=C1C=C(N=C2N1CCC2N2C(C1=CC=CC=C1C2=O)=O)C2=CC=NC=C2 | C20H14N4O3
